US09024027B2
To a solution of 2-(4-(N-(tert-butoxycarbonyl)methylsulfonamido)-1H-indol-1-yl)acetic acid (250 mg, 0.679 mmol) in DCM (10 ml), (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (285 mg, 0.679 mmol), EDC (390 mg, 2.036 mmol) and DMAP (41.5 mg, 0.339 mmol) were added, and the mixture was reacted at room temperature overnight. The mixture was partitioned between DCM and 1N HCl and the aqueous phase was extracted with DCM (3×20 ml); the solvent was removed to give (S)-4-(2-(2-(4-(N-(tert-butoxycarbonyl)-methylsulfonamido)-1H-indol-1-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide (420 mg, 0.545 mmol, 80% yield). MS/ESI+ 770.9 [MH]+. This intermediate was used in the following steps without purification.

reactant | 2-(4-(N-(tert-butoxycarbonyl)methylsulfonamido)-1H-indol-1-yl)acetic acid | 0.679 mmol, 250 mg | C(C)(C)(C)OC(=O)N(S(=O)(=O)C)C1=C2C=CN(C2=CC=C1)CC(=O)O | C16H20N2O6S
reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 0.679 mmol, 285 mg | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
reactant | EDC | 2.036 mmol, 390 mg
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.339 mmol, 41.5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-4-(2-(2-(4-(N-(tert-butoxycarbonyl)-methylsulfonamido)-1H-indol-1-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide | 0.545 mmol, 420 mg, 80% yield | C(C)(C)(C)OC(=O)N(S(=O)(=O)C)C1=C2C=CN(C2=CC=C1)CC(=O)O[C@@H](CC1=C(C=[N+](C=C1Cl)[O-])Cl)C1=CC(=C(C=C1)OC(F)F)OCC1CC1 | C34H35Cl2F2N3O9S
